US07271153B2
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-gluco-pyranosyloxy)-4-[4-(2-benzoyloxyethyl)benzyl]pyridine (0.086 g) in methanol (1 mL) was added sodium methoxide (28% solution in methanol, 0.008 mL), and the mixture was stirred for 23 hours at 25° C. After the reaction mixture was concentrated under reduced pressure, the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=4/1) to give 3-(β-D-glucopyranosyloxy)-4-[4-(2-hydroxy-ethyl)benzyl]pyridine (0.044 g).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-gluco-pyranosyloxy)-4-[4-(2-benzoyloxyethyl)benzyl]pyridine | 0.086 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC=1C=NC=CC1CC1=CC=C(C=C1)CCOC(C1=CC=CC=C1)=O | C35H37NO12
reactant | sodium methoxide | 0.008 mL | C[O-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 3-(β-D-glucopyranosyloxy)-4-[4-(2-hydroxy-ethyl)benzyl]pyridine | 0.044 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC=1C=NC=CC1CC1=CC=C(C=C1)CCO | C20H25NO7
